US06380242B1
6-(4-hydroxy-tetrahydropyran-4-yl)-1-(2-(N,N-dimethylamino)ethyl)-1H-indole
6-Bromo-1-(N-methylpiperidin-2-yl)methyl)-1H-indole (220 mg, 57.2%) and 6-bromo-1-(N-methyl-azepan-3-yl)-1H-indole (94 mg, 24.4%); from 6-bromo-1-methanesulfonyl-1H-indole (344 mg, 1.25 mmol) and N-methylpiperidine-2-methanol (395 mg, 2.5 mmol) with NaH (53 mg, 2.2 mmol) and potassium carbonate (325 mg, 2.35 mmol) in toluene (10 mL) at 100° C. overnight.

reactant | 1H-indole | 220 mg | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 6-bromo-1-(N-methyl-azepan-3-yl)-1H-indole | 94 mg | BrC1=CC=C2C=CN(C2=C1)C1CN(CCCC1)C | C15H19BrN2
reactant | 6-bromo-1-methanesulfonyl-1H-indole | 1.25 mmol, 344 mg | BrC1=CC=C2C=CN(C2=C1)S(=O)(=O)C | C9H8BrNO2S
reactant | N-methylpiperidine-2-methanol | 2.5 mmol, 395 mg | CN1C(CCCC1)CO | C7H15NO
reactant | NaH | 2.2 mmol, 53 mg | [H-].[Na+]
reactant | potassium carbonate | 2.35 mmol, 325 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 6-(4-hydroxy-tetrahydropyran-4-yl)-1-(2-(N,N-dimethylamino)ethyl)-1H-indole | OC1(CCOCC1)C1=CC=C2C=CN(C2=C1)CCN(C)C | C17H24N2O2
